US07317028B2
Potassium carbonate (7.88 g; 57 mmol) was added to a solution of 4.92 g of ethylene urea (57 mmol), 5.73 g of methyl 4-bromomethylbenzoate (25 mmol) and 1.85 g of tetra-n-butylammonium iodide (5.0 mmol) in 30 mL of DMF, and the mixture was heated with stirring at 80° C. for 5 hours. After cooling, the solid was collected by filtration and washed with ethyl acetate. The filtrate was concentrated. The residue was purified by column chromatography on silica gel (eluent: ethyl acetate:methanol=10:1). To the light yellow oil obtained-was-added diisopropyl ether, and the precipitated solid w-as collected by filtration and dried to give 3.36 g of N-(4-methoxycarbonylphenylmethyl)imidazolin-2-one (Yield: 57.4%) as a light brown solid.

reactant | Potassium carbonate | 57 mmol, 7.88 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethylene urea | 57 mmol, 4.92 g | C1CNC(=O)N1 | C3H6N2O
reactant | methyl 4-bromomethylbenzoate | 25 mmol, 5.73 g | BrCC1=CC=C(C(=O)OC)C=C1 | C9H9BrO2
catalyst | tetra-n-butylammonium iodide | 5.0 mmol, 1.85 g | [I-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | N-(4-methoxycarbonylphenylmethyl)imidazolin-2-one | 3.36 g, Yield: 57.4% | COC(=O)C1=CC=C(C=C1)CN1C(NCC1)=O | C12H14N2O3
